US06747023B1
1-[(5-Chloroindol-2-yl)sulfonyl]-4-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride
A reaction was effected in the same manner as in Example B-7 by using 1-[(5-chloroindol-2-yl)sulfonyl]piperazine and lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-carboxylate as starting materials, whereby the title compound was obtained as brown amorphous.

reactant | 1-[(5-chloroindol-2-yl)sulfonyl]piperazine | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCNCC1 | C12H14ClN3O2S
reactant | lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-carboxylate | CC1CC2=C(CN1)SC(=N2)C(=O)[O-].[Li+]
product | 1-[(5-Chloroindol-2-yl)sulfonyl]-4-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC=2CNC(CC2N1)C | InChI=1S/C20H22ClN5O3S2.ClH/c1-12-8-16-17(11-22-12)30-19(24-16)20(27)25-4-6-26(7-5-25)31(28,29)18-10-13-9-14(21)2-3-15(13)23-18;/h2-3,9-10,12,22-23H,4-8,11H2,1H3;1H
